US08975254B2
(S)—N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-2-(1-(methylsulfonyl)piperidin-4-yl)oxazole-4-carboxamide was prepared using the method of Example 34(d) starting from 2-(1-(methylsulfonyl)piperidin-4-yl)oxazole-4-carboxylic acid (0.4 g, 01.458 mmol) and (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile (0.317 g, 01.215 mmol). The product was purified by extracting it from DCM with 0.1 M HCl, 1 M Na2CO3, water and brine. Yield 87%. 1H-NMR (400 MHz; CDCl3): δ 1.25 (d, 3H), 1.97 (m, 2H), 2.15 (m, 2H), 2.83 (s, 3H), 2.89 (m, 3H), 3.81 (m, 2H), 4.30 (dd, 1H), 4.41 (dd, 1H), 4.57 (m, 1H), 6.63 (d, 1H), 7.46 (d, 1H), 7.49 (d, 1H), 7.68 (dd, 1H), 7.79 (dd, 1H), 8.01 (dd, 1H), 8.11 (s, 1H).

reactant | 2-(1-(methylsulfonyl)piperidin-4-yl)oxazole-4-carboxylic acid | 0.4 g | CS(=O)(=O)N1CCC(CC1)C=1OC=C(N1)C(=O)O | C10H14N2O5S
reactant | (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile | 0.317 g | N[C@H](CN1N=C(C=C1)C1=CC(=C(C#N)C=C1)Cl)C | C13H13ClN4
product | (S)—N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-2-(1-(methylsulfonyl)piperidin-4-yl)oxazole-4-carboxamide | Yield 87% | ClC=1C=C(C=CC1C#N)C1=NN(C=C1)C[C@H](C)NC(=O)C=1N=C(OC1)C1CCN(CC1)S(=O)(=O)C | C23H25ClN6O4S
